US08207180B2
N-[(1S)-2-Amino-1-benzylethyl]-1-(2,2,2-trifluoroethyl)-4,5-dihydro-1H-pyrrolo[2,3-f]isoquinoline-3-carboxamide (E14)
To a solution of tert-butyl[(2S)-3-phenyl-2-({[1-(2,2,2-trifluoroethyl)-4,5-dihydro-1H-pyrrolo[2,3-f]isoquinolin-3-yl]carbonyl}amino)propyl]carbamate L8 (0.38 mmol) in dry dioxane (20 mL), 4M HCl in dioxane (5 mL) was added. The reaction mixture was stirred at rt overnight. The solvent was removed and the residue dissolved with DCM and washed with aq NaHCO3. The organic layer was dried (Na2SO4) and concentrated. Purification by chromatography on silica gel (eluant: DCM/MeOH 19:1) gave, after trituration with diethylether, the title compound (75% yield). ESI (+) MS: m/z 429 (MH+). 1H-NMR: 4.06-4.18 (m, 1H), 5.32 (q, J=8.98, 2H), 7.18 (m, 1H), 7.48 (d, J=5.24, 1H), 7.57 (s, 1H), 7.71 (d, J=8.41, 1H), 8.38 (d, J=5.24, 1H), 8.40 (s, 1H).

reactant | tert-butyl[(2S)-3-phenyl-2-({[1-(2,2,2-trifluoroethyl)-4,5-dihydro-1H-pyrrolo[2,3-f]isoquinolin-3-yl]carbonyl}amino)propyl]carbamate | C(C)(C)(C)OC(NC[C@H](CC1=CC=CC=C1)NC(=O)C1=CN(C=2C=3C=CN=CC3CCC21)CC(F)(F)F)=O | C28H31F3N4O3
reactant | HCl | 4M | Cl | ClH
reactant | diethylether | C(C)OCC | C4H10O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-[(1S)-2-Amino-1-benzylethyl]-1-(2,2,2-trifluoroethyl)-4,5-dihydro-1H-pyrrolo[2,3-f]isoquinoline-3-carboxamide | 75% yield | NC[C@H](CC1=CC=CC=C1)NC(=O)C1=CN(C=2C=3C=CN=CC3CCC21)CC(F)(F)F | C23H23F3N4O
